US06403055B1
C) N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-[2-[[(1,1-dimethylethyl) dimethylsilyl]oxy]ethyl]-L-isoleucine 1,1-dimethylethyl ester
L-isoleucine 1,1-dimethylethylester (23.00 g; 122.8 mmol), (2-Bromoethoxy)-(1,1-dimethylethyl)dimethylsilane (30.26 g, 126.5 mmol) and Na2CO3 (26.18 g; 247.0 mmol) were stirred in DMPU (Aldrich art. 25,156-9) (300 mL) at 90° C. for 20 h. The intermediate product was not isolated, but after cooling the mixture to roughly 40° C., tert-butyl bromoacetate (commercial product) (19.0 mL; 130 mmol) and further Na2CO3 (27.00 g; 254.7 mmol) were added, then heating at 90° C. was restored. More tert-butyl bromoacetate (2.0 mL; 14 mmol) was added after 4 h and heating prolonged for another 2 h. The mixture was cooled to 0° C., then water (600 mL) was cautiously added (exothermic solubilization). Once clear, the solution was extracted with diethyl ether (4×250 mL); the combined organic layers were washed with water (3×250 mL), brine (250 mL), at last dried over Na2SO4. After removal of solvents in vacuo, the residual oil was purified by flash chromatography (n-hexane/iPr2O 95:5). The desired compound was obtained (42.25 g; 91.90 mmol). Yield 75%.

reactant | L-isoleucine 1,1-dimethylethylester | 122.8 mmol, 23.00 g | CC(C)(C)OC([C@@H](N)[C@@H](C)CC)=O | C10H21NO2
reactant | (2-Bromoethoxy)-(1,1-dimethylethyl)dimethylsilane | 126.5 mmol, 30.26 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | Na2CO3 | 247.0 mmol, 26.18 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl bromoacetate | 130 mmol, 19.0 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Na2CO3 | 254.7 mmol, 27.00 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl bromoacetate | 14 mmol, 2.0 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMPU | 300 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | water | 600 mL | O | H2O
product | N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-[2-[[(1,1-dimethylethyl) dimethylsilyl]oxy]ethyl]-L-isoleucine 1,1-dimethylethyl ester | Yield 75% | CC(C)(C)OC([C@@H](N(CCO[Si](C)(C)C(C)(C)C)CC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C24H49NO5Si
